US08859592B2
3-Hydroxy-2-nitro-benzoic acid (commercially available) (31.5 g) was suspended in acetonitrile (100 ml). Oxalyl chloride (22 ml) in acetonitrile (20 ml) was added dropwise upon which a vigorous gas stream evolved. After 15 minutes the reaction slowed down and therefore, the reaction mixture was heated with a warm water bath (40° C.) for 40 minutes. The mixture was concentrated and the residue was re-dissolved in dichloromethane (100 ml). A mixture of methanol (50 ml) and triethylamine (20 ml) in dichloromethane (30 ml) was added dropwise while cooling the mixture with an ice bath. The reaction mixture was stirred at ambient temperature for 16 hours. The mixture was concentrated and the residue was purified by column chromatography on silica gel (eluent: 10-55% v/v ethyl acetate in heptane) to give 3-hydroxy-2-nitro-benzoic acid methyl ester (15.9 g). 1H-NMR (400 MHz, CDCl3): 10.15 (bs, 1H), 7.60 (t, 1H), 7.27 (d, 1H), 7.08 (d, 1H), 3.93 (s, 3H) ppm.

reactant | 3-Hydroxy-2-nitro-benzoic acid | OC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H5NO5
reactant | Oxalyl chloride | 22 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-hydroxy-2-nitro-benzoic acid methyl ester | 15.9 g | COC(C1=C(C(=CC=C1)O)[N+](=O)[O-])=O | C8H7NO5
